US06277862B1
(S)-N-(a-ethylbenzyl)-3-[2-(3-carboxypropanoyl)aminoethoxy]-2-phenylquinoline-4-carboxamide
2.0 g (4.7 mmol) of (S)-N-(α-ethylbenzyl)-3-(2-aminoethoxy)-2-phenylquinoline-4-carboxamide (compound of Description 4) and 0.6 g (6.2 mmol) of succinic anhydride were dissolved in 50 ml of toluene; some triturated molecular sieves were added and the reaction mixture was refluxed in a Dean Stark apparatus for 4 hours. The reaction mixture was evaporated in vacuo to dryness, dissolved in 100 ml of CH2Cl2 and washed with sat. sol. NaCl, 20% citric acid and sat. sol. NaCl. The organic layer was dried over Na2SO4 and evaporated in vacuo to dryness to yield 2.3 g of the crude product which was purified by flash column chromatography on 230-400 mesh silica gel, eluting initially with a mixture of CH2Cl2/MeOH 9:1 and then with a mixture of CH2Cl2/MeOH 8:2. The crude solid obtained was triturated with i-Pr2O/i-PrOH, washed and dried to yield 1.4 g of the title compound.

reactant | (S)-N-(α-ethylbenzyl)-3-(2-aminoethoxy)-2-phenylquinoline-4-carboxamide | 4.7 mmol, 2.0 g | C(C)[C@@H](C1=CC=CC=C1)NC(=O)C1=C(C(=NC2=CC=CC=C12)C1=CC=CC=C1)OCCN | C27H27N3O2
reactant | succinic anhydride | 6.2 mmol, 0.6 g | C1(CCC(=O)O1)=O | C4H4O3
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | (S)-N-(a-ethylbenzyl)-3-[2-(3-carboxypropanoyl)aminoethoxy]-2-phenylquinoline-4-carboxamide | 1.4 g | C(C)[C@@H](C1=CC=CC=C1)NC(=O)C1=C(C(=NC2=CC=CC=C12)C1=CC=CC=C1)OCCNC(CCC(=O)O)=O | C31H31N3O5
